US05260423
Preparation of 7-acetylthiomethylbenzo-1,2,3-thiadiazole (Comp. 1.113)
A solution of 2.2 g of potassium thioacetate in 20 ml of absolute dimethyl sulfoxide, stirred at 20° C., is treated dropwise with stirring with a solution of 2.8 g of 7-chloromethylbenzo-1,2,3-thiadiazole in 10 ml of dimethyl sulfoxide, during which process the internal temperature rises to 37° C. The mixture is subsequently stirred overnight at room temperature and, on the following day, poured into ice-water and extracted using ethyl acetate. The extracts are washed five times with water, dried over sodium sulfate and evaporated. The residue which remains is distilled in vacuo, resulting in an oil of refractive index nD27 =1.6478.

reactant | potassium thioacetate | 2.2 g | C(C)(=S)[O-].[K+]
reactant | 7-chloromethylbenzo-1,2,3-thiadiazole | 2.8 g | ClCC1=CC=CC=2N=NSC21 | C7H5ClN2S
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 7-acetylthiomethylbenzo-1,2,3-thiadiazole | C(C)(=O)SCC1=CC=CC=2N=NSC21 | C9H8N2OS2
